US08957078B2
2-amino-6-fluoro-N-(1-(tetrahydro-2H-pyran-4-yl)-1H-imidazol-5-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide (Compound I-D-4)
(6-chlorobenzotriazol-1-yl) 2-amino-6-fluoro-pyrazolo[1,5-a]pyrimidine-3-carboxylate (120.1 mg, 0.3454 mmol) and 3-tetrahydropyran-4-ylimidazol-4-amine (75 mg, 0.314 mmol) (prepared according to a procedure similar to Preparation 10) were suspended in NMP (1 mL) and stirred at 100° C. for 19 hours. The reaction was cooled to ambient temperature and purified by passing the crude reaction mixture through a 10 g SCX-2 cartridge (pre-washed with MeOH). The cartridge was washed with DCM/MeOH mixtures then the product eluted with 2M NH3 in MeOH/DCM mixtures. The solvent was removed in vacuo and the material was purified by fractionlynx. The clean fractions were freeze-dried to give title compound 2-amino-6-fluoro-N-(1-(tetrahydro-2H-pyran-4-yl)-1H-imidazol-5-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide as a beige solid (21.1 mg, 19% Yield). MS (ES+) 346.1.

reactant | (6-chlorobenzotriazol-1-yl) 2-amino-6-fluoro-pyrazolo[1,5-a]pyrimidine-3-carboxylate | 0.3454 mmol, 120.1 mg | NC1=NN2C(N=CC(=C2)F)=C1C(=O)ON1N=NC2=C1C=C(C=C2)Cl | C13H7ClFN7O2
reactant | 3-tetrahydropyran-4-ylimidazol-4-amine | 0.314 mmol, 75 mg | O1CCC(CC1)N1C=NC=C1N | C8H13N3O
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
product | 2-amino-6-fluoro-N-(1-(tetrahydro-2H-pyran-4-yl)-1H-imidazol-5-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 21.1 mg, 19% Yield | NC1=NN2C(N=CC(=C2)F)=C1C(=O)NC1=CN=CN1C1CCOCC1 | C15H16FN7O2
